US08729271B2
1-Methyl-N-[(4-phenylpyridin-2-yl)methyl]-N-propyl-1H-imidazole-4-carboxamide
To a solution of methyl-1H-imidazole-4-carboxylic acid (53 mg) in dimethylformamide (1 mL) was added 1-hydroxybenzotriazole hydrate (HOBT.H2O) (64 mg) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC.HCl) (81 mg) and the mixture was stirred at room temperature for 10 min. A solution of N-[(4-phenylpyridin-2-yl)methyl]propan-1-amine (80 mg) in dimethylformamide (2 mL) was added thereto, and the mixture was stirred at room temperature overnight. The solvent was distilled off under reduced pressure and then saturated aqueous sodium hydrogen carbonate solution was added, followed by extraction with ethyl acetate. The organic phase was collected and dried over anhydrous sodium sulfate. After the desiccant was filtered off, the solvent was distilled off under reduced pressure. The resulting residue was purified by column chromatography (silica gel cartridge, chloroform:methanol=98:2-82:18) and (the same column, chloroform:methanol=100:0-90:10) to afford the title compound (33 mg).

reactant | methyl-1H-imidazole-4-carboxylic acid | 53 mg | CN1C=NC(=C1)C(=O)O | C5H6N2O2
reactant | 1-hydroxybenzotriazole hydrate | 64 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 81 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-[(4-phenylpyridin-2-yl)methyl]propan-1-amine | 80 mg | C1(=CC=CC=C1)C1=CC(=NC=C1)CNCCC | C15H18N2
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 1-Methyl-N-[(4-phenylpyridin-2-yl)methyl]-N-propyl-1H-imidazole-4-carboxamide | 33 mg | CN1C=NC(=C1)C(=O)N(CCC)CC1=NC=CC(=C1)C1=CC=CC=C1 | C20H22N4O
